US05256813
3.2 g (0.025 mol) of di-n-butylamine were added to a boiling, at 70° C., mixture of 120 g (1 mol) of methyl 2-methoxy-2-hydroxyacetate and 58 g (1 mol) of propionaldehyde. An exothermic reaction started immediately and the temperature rose to 100° C., when part of the reaction mixture boiled out of the flask. The temperature slowly fell to 90° C. and was maintained at this for 30 min. Fractional distillation of the reaction mixture yielded 38.9 g of methyl 3-formylcrotonate of boiling point (b.p.) 56°-68° C./10 mbar, corresponding to a yield of 30.4% of theory. The trans/cis ratio was determined by gas chromatography to be 83/17.

reactant | methyl 2-methoxy-2-hydroxyacetate | 1 mol, 120 g | COC(C(=O)OC)O | C4H8O4
reactant | propionaldehyde | 1 mol, 58 g | C(CC)=O | C3H6O
catalyst | di-n-butylamine | 0.025 mol, 3.2 g | C(CCC)NCCCC | C8H19N
product | methyl 3-formylcrotonate | 38.9 g, yield of 30.4% | C(=O)\C(=C/C(=O)OC)\C | C6H8O3
